US06630593B1
Synthesis of 1-Benzyl-5-hydroxymethylimidazole
1-Benzyl-2-mercapto-5-hydroxymethylimidazole(2.2 g, 9.99 mmol) and tungstic acid(H2WO4, 25 mg, 1 mol %) were mixed in 11 ml of methanol. The mixture was warmed to 40° C. in a water bath and 30% hydrogen peroxide(3.75 g, 3.2 molar eq.) was added dropwise thereto for 5 minutes while stirring. The reaction mixture was warmed to 65° C. and refluxed, and stirred at the same temperature for 2.5 hours. Upon exhaustion of the starting material, the mixture was cooled in an ice bath and thereto was added 1 N sodium hydroxide solution(18 ml) to adjust pH of the mixture to 10. The resulting solid was further stirred for 15 minutes, filtered, washed twice with 15 ml of distilled water and 15 ml of isopropyl ether, respectively, and dried to give 1.3 g(Yield 69%, HPLC purity 96.7%) of the title compound as a white powder.

reactant | 1-Benzyl-2-mercapto-5-hydroxymethylimidazole | 9.99 mmol, 2.2 g | C(C1=CC=CC=C1)N1C(=NC=C1CO)S | C11H12N2OS
reactant | hydrogen peroxide | 3.2 molar, 3.75 g | OO | H2O2
reactant | sodium hydroxide | 1 N, 18 ml | [OH-].[Na+]
solvent | methanol | 11 ml | CO | CH4O
catalyst | tungstic acid | 25 mg | O[W](=O)(=O)O
product | 1-Benzyl-5-hydroxymethylimidazole | Yield 69% | C(C1=CC=CC=C1)N1C=NC=C1CO | C11H12N2O
